**************************************************
* Manufacturer: 		Wurth Elektronik
* Kinds:			 Common Mode Power Line Choke
* Matchcode: 		WE-CMBHV
* Library Type:		LTspice
* Version: 		rev18a
* Created/modified by:	Fredo Huang
* Date and Time   :		2018-01-03
* Team: 			eiSos EDA Service
* Contact: 		libraries@we-online.com
**************************************************
.subckt XL_744830007215_0.7m 1 2 3 4
R1 N004 1 {Rdc}
R2 N006 N004 {dR4}
C1 N005 N004 {dC3}
L1 N011 N004 {dL3}
L2 N018 N019 {dL3}
C2 N011 N019 {ck}
R3 N006 N005 {dR3}
R4 N020 N022 {dR3}
C3 N022 N018 {dC3}
R5 N020 N018 {dR4}
L3 N006 N011 {dL3}
L4 N019 N020 {dL3}
R6 N018 2 {Rdc}
R8 N001 N006 {dR6}
C4 N007 N006 {dC4}
L5 N012 N006 {dL4}
L6 N020 N021 {dL4}
C5 N012 N021 {ck}
R9 N001 N007 {dR5}
R10 N013 N023 {dR5}
C6 N023 N020 {dC4}
R11 N013 N020 {dR6}
L7 N001 N012 {dL4}
L8 N021 N013 {dL4}
L9 N009 N008 {L3}
C7 N003 N002 {C1}
R13 N009 N008 {Rs3}
L10 4 N010 {L1}
R14 4 N010 {Rs1}
L11 N010 N009 {L2}
R15 N010 N009 {Rs2}
L12 N016 N015 {L3}
C8 N024 N014 {C1}
L13 3 N017 {L1}
L14 N017 N016 {L2}
R16 4 N003 {R2}
R17 3 N024 {R2}
L15 N015 N014 {L4}
R18 N008 N002 {Rs4}
L16 N008 N002 {L4}
R21 3 N017 {Rs1}
R22 N017 N016 {Rs2}
R23 N016 N015 {Rs3}
R24 N015 N014 {Rs4}
R25 N002 N001 {Rs5}
R26 N014 N013 {Rs5}
C9 N002 N001 {C2}
C10 N014 N013 {C2}
L17 N002 N001 {L5}
L18 N014 N013 {L5}
K7 L1 L3 L2 L4 0.9999
K6 L5 L7 L6 L8 0.9999
K3 L9 L12 1
K2 L11 L14 1
K1 L10 L13 1
K4 L16 L15 1
K5 L17  L18 1
.param Rdc=0.0038
.param L1=660.38e-006
.param L2=80.35e-006
.param L3=90.47e-006
.param L4=157.22e-006
.param L5=3.5e-009
.param C1=1.5e-011
.param C2=2.0e-016
.param Rs1=3098
.param Rs2=837
.param Rs3=1193
.param Rs4=1278
.param Rs5=6490
.param R2=16
.param dL3=29.8e-08
.param dC3=13.8e-012
.param dL4=9.51e-009
.param dC4=100e-09
.param dR3=0.19
.param dR4=1930
.param dR5=1
.param dR6=200
.param ck=0.001pF
.backanno
.ends XL_744830007215_0.7m
*--------------------------------------------------------
.subckt XL_744830010185_1m 1 2 3 4
R1 N004 1 {Rdc}
R2 N006 N004 {dR4}
C1 N005 N004 {dC3}
L1 N011 N004 {dL3}
L2 N018 N019 {dL3}
C2 N011 N019 {ck}
R3 N006 N005 {dR3}
R4 N020 N022 {dR3}
C3 N022 N018 {dC3}
R5 N020 N018 {dR4}
L3 N006 N011 {dL3}
L4 N019 N020 {dL3}
R6 N018 2 {Rdc}
R8 N001 N006 {dR6}
C4 N007 N006 {dC4}
L5 N012 N006 {dL4}
L6 N020 N021 {dL4}
C5 N012 N021 {ck}
R9 N001 N007 {dR5}
R10 N013 N023 {dR5}
C6 N023 N020 {dC4}
R11 N013 N020 {dR6}
L7 N001 N012 {dL4}
L8 N021 N013 {dL4}
L9 N009 N008 {L3}
C7 N003 N002 {C1}
R13 N009 N008 {Rs3}
L10 4 N010 {L1}
R14 4 N010 {Rs1}
L11 N010 N009 {L2}
R15 N010 N009 {Rs2}
L12 N016 N015 {L3}
C8 N024 N014 {C1}
L13 3 N017 {L1}
L14 N017 N016 {L2}
R16 4 N003 {R2}
R17 3 N024 {R2}
L15 N015 N014 {L4}
R18 N008 N002 {Rs4}
L16 N008 N002 {L4}
R21 3 N017 {Rs1}
R22 N017 N016 {Rs2}
R23 N016 N015 {Rs3}
R24 N015 N014 {Rs4}
R25 N002 N001 {Rs5}
R26 N014 N013 {Rs5}
C9 N002 N001 {C2}
C10 N014 N013 {C2}
L17 N002 N001 {L5}
L18 N014 N013 {L5}
K7 L1 L3 L2 L4 0.9999
K6 L5 L7 L6 L8 0.9999
K3 L9 L12 1
K2 L11 L14 1
K1 L10 L13 1
K4 L16 L15 1
K5 L17  L18 1
.param Rdc=0.0055
.param L1=880.38e-006
.param L2=199.35e-006
.param L3=185.47e-006
.param L4=225.22e-006
.param L5=2.8e-010
.param C1=1.280e-011
.param C2=1.4e-016
.param Rs1=5000
.param Rs2=3700
.param Rs3=593
.param Rs4=1578
.param Rs5=7490
.param R2=17
.param dL3=44.1e-08
.param dC3=15e-012
.param dL4=9.51e-09
.param dC4=100e-09
.param dR3=0.19
.param dR4=3550
.param dR5=1
.param dR6=200
.param ck=0.2pF
.backanno
.ends XL_744830010185_1m
*--------------------------------------------------------
.subckt XL_744830017132_1.7m 1 2 3 4
R1 N004 1 {Rdc}
R2 N006 N004 {dR4}
C1 N005 N004 {dC3}
L1 N011 N004 {dL3}
L2 N018 N019 {dL3}
C2 N011 N019 {ck}
R3 N006 N005 {dR3}
R4 N020 N022 {dR3}
C3 N022 N018 {dC3}
R5 N020 N018 {dR4}
L3 N006 N011 {dL3}
L4 N019 N020 {dL3}
R6 N018 2 {Rdc}
R8 N001 N006 {dR6}
C4 N007 N006 {dC4}
L5 N012 N006 {dL4}
L6 N020 N021 {dL4}
C5 N012 N021 {ck}
R9 N001 N007 {dR5}
R10 N013 N023 {dR5}
C6 N023 N020 {dC4}
R11 N013 N020 {dR6}
L7 N001 N012 {dL4}
L8 N021 N013 {dL4}
L9 N009 N008 {L3}
C7 N003 N002 {C1}
R13 N009 N008 {Rs3}
L10 4 N010 {L1}
R14 4 N010 {Rs1}
L11 N010 N009 {L2}
R15 N010 N009 {Rs2}
L12 N016 N015 {L3}
C8 N024 N014 {C1}
L13 3 N017 {L1}
L14 N017 N016 {L2}
R16 4 N003 {R2}
R17 3 N024 {R2}
L15 N015 N014 {L4}
R18 N008 N002 {Rs4}
L16 N008 N002 {L4}
R21 3 N017 {Rs1}
R22 N017 N016 {Rs2}
R23 N016 N015 {Rs3}
R24 N015 N014 {Rs4}
R25 N002 N001 {Rs5}
R26 N014 N013 {Rs5}
C9 N002 N001 {C2}
C10 N014 N013 {C2}
L17 N002 N001 {L5}
L18 N014 N013 {L5}
K7 L1 L3 L2 L4 0.9999
K6 L5 L7 L6 L8 0.9999
K3 L9 L12 1
K2 L11 L14 1
K1 L10 L13 1
K4 L16 L15 1
K5 L17  L18 1
.param Rdc=0.01
.param L1=1760.38e-006
.param L2=700.35e-006
.param L3=95.47e-006
.param L4=99.22e-006
.param L5=2.5e-010
.param C1=1.98e-011
.param C2=3e-016
.param Rs1=12128
.param Rs2=837
.param Rs3=1493
.param Rs4=1378
.param Rs5=7490
.param R2=17
.param dL3=70e-08
.param dC3=20e-012
.param dL4=9.51e-09
.param dC4=10e-09
.param dR3=0.19
.param dR4=4950
.param dR5=1
.param dR6=200
.param ck=0.2pF
.backanno
.ends XL_744830017132_1.7m
*--------------------------------------------------------------
.subckt XL_744830025103_2.5m 1 2 3 4
R1 N004 1 {Rdc}
R2 N006 N004 {dR4}
C1 N005 N004 {dC3}
L1 N011 N004 {dL3}
L2 N018 N019 {dL3}
C2 N011 N019 {ck}
R3 N006 N005 {dR3}
R4 N020 N022 {dR3}
C3 N022 N018 {dC3}
R5 N020 N018 {dR4}
L3 N006 N011 {dL3}
L4 N019 N020 {dL3}
R6 N018 2 {Rdc}
R8 N001 N006 {dR6}
C4 N007 N006 {dC4}
L5 N012 N006 {dL4}
L6 N020 N021 {dL4}
C5 N012 N021 {ck}
R9 N001 N007 {dR5}
R10 N013 N023 {dR5}
C6 N023 N020 {dC4}
R11 N013 N020 {dR6}
L7 N001 N012 {dL4}
L8 N021 N013 {dL4}
L9 N009 N008 {L3}
C7 N003 N002 {C1}
R13 N009 N008 {Rs3}
L10 4 N010 {L1}
R14 4 N010 {Rs1}
L11 N010 N009 {L2}
R15 N010 N009 {Rs2}
L12 N016 N015 {L3}
C8 N024 N014 {C1}
L13 3 N017 {L1}
L14 N017 N016 {L2}
R16 4 N003 {R2}
R17 3 N024 {R2}
L15 N015 N014 {L4}
R18 N008 N002 {Rs4}
L16 N008 N002 {L4}
R21 3 N017 {Rs1}
R22 N017 N016 {Rs2}
R23 N016 N015 {Rs3}
R24 N015 N014 {Rs4}
R25 N002 N001 {Rs5}
R26 N014 N013 {Rs5}
C9 N002 N001 {C2}
C10 N014 N013 {C2}
L17 N002 N001 {L5}
L18 N014 N013 {L5}
K7 L1 L3 L2 L4 0.9999
K6 L5 L7 L6 L8 0.9999
K3 L9 L12 1
K2 L11 L14 1
K1 L10 L13 1
K4 L16 L15 1
K5 L17  L18 1
.param Rdc=0.018
.param L1=2610.38e-006
.param L2=700.35e-006
.param L3=950.47e-006
.param L4=200.22e-006
.param L5=2.75e-010
.param C1=2.20e-011
.param C2=2.7e-011
.param Rs1=23600
.param Rs2=837
.param Rs3=1493
.param Rs4=1378
.param Rs5=8490
.param R2=16
.param dL3=118e-08
.param dC3=20.6e-012
.param dL4=9.51e-09
.param dC4=100e-09
.param dR3=0.19
.param dR4=7000
.param dR5=1
.param dR6=200
.param ck=0.1pF
.backanno
.ends XL_744830025103_2.5m
*--------------------------------------------------------------
.subckt XL_744830039080_3.9m 1 2 3 4
R1 N004 1 {Rdc}
R2 N006 N004 {dR4}
C1 N005 N004 {dC3}
L1 N011 N004 {dL3}
L2 N018 N019 {dL3}
C2 N011 N019 {ck}
R3 N006 N005 {dR3}
R4 N020 N022 {dR3}
C3 N022 N018 {dC3}
R5 N020 N018 {dR4}
L3 N006 N011 {dL3}
L4 N019 N020 {dL3}
R6 N018 2 {Rdc}
R8 N001 N006 {dR6}
C4 N007 N006 {dC4}
L5 N012 N006 {dL4}
L6 N020 N021 {dL4}
C5 N012 N021 {ck}
R9 N001 N007 {dR5}
R10 N013 N023 {dR5}
C6 N023 N020 {dC4}
R11 N013 N020 {dR6}
L7 N001 N012 {dL4}
L8 N021 N013 {dL4}
L9 N009 N008 {L3}
C7 N003 N002 {C1}
R13 N009 N008 {Rs3}
L10 4 N010 {L1}
R14 4 N010 {Rs1}
L11 N010 N009 {L2}
R15 N010 N009 {Rs2}
L12 N016 N015 {L3}
C8 N024 N014 {C1}
L13 3 N017 {L1}
L14 N017 N016 {L2}
R16 4 N003 {R2}
R17 3 N024 {R2}
L15 N015 N014 {L4}
R18 N008 N002 {Rs4}
L16 N008 N002 {L4}
R21 3 N017 {Rs1}
R22 N017 N016 {Rs2}
R23 N016 N015 {Rs3}
R24 N015 N014 {Rs4}
R25 N002 N001 {Rs5}
R26 N014 N013 {Rs5}
C9 N002 N001 {C2}
C10 N014 N013 {C2}
L17 N002 N001 {L5}
L18 N014 N013 {L5}
K7 L1 L3 L2 L4 0.9999
K6 L5 L7 L6 L8 0.9999
K3 L9 L12 1
K2 L11 L14 1
K1 L10 L13 1
K4 L16 L15 1
K5 L17  L18 1
.param Rdc=0.031
.param L1=3398.38e-006
.param L2=700.35e-006
.param L3=950.47e-006
.param L4=85.22e-006
.param L5=2.75e-010
.param C1=2.15e-011
.param C2=2.75e-011
.param Rs1=37000
.param Rs2=837
.param Rs3=1493
.param Rs4=13780
.param Rs5=8490
.param R2=16
.param dL3=144e-08
.param dC3=27.9e-012
.param dL4=9.51e-09
.param dC4=100e-09
.param dR3=0.19
.param dR4=9050
.param dR5=1
.param dR6=200
.param ck=0.1pF
.backanno
.ends XL_744830039080_3.9m
*--------------------------------------------------------------
.subckt XXL_744831010205_1m 1 2 3 4
R1 N004 1 {Rdc}
R2 N006 N004 {dR4}
C1 N005 N004 {dC3}
L1 N011 N004 {dL3}
L2 N018 N019 {dL3}
C2 N011 N019 {ck}
R3 N006 N005 {dR3}
R4 N020 N022 {dR3}
C3 N022 N018 {dC3}
R5 N020 N018 {dR4}
L3 N006 N011 {dL3}
L4 N019 N020 {dL3}
R6 N018 2 {Rdc}
R8 N001 N006 {dR6}
C4 N007 N006 {dC4}
L5 N012 N006 {dL4}
L6 N020 N021 {dL4}
C5 N012 N021 {ck}
R9 N001 N007 {dR5}
R10 N013 N023 {dR5}
C6 N023 N020 {dC4}
R11 N013 N020 {dR6}
L7 N001 N012 {dL4}
L8 N021 N013 {dL4}
L9 N009 N008 {L3}
C7 N003 N002 {C1}
R13 N009 N008 {Rs3}
L10 4 N010 {L1}
R14 4 N010 {Rs1}
L11 N010 N009 {L2}
R15 N010 N009 {Rs2}
L12 N016 N015 {L3}
C8 N024 N014 {C1}
L13 3 N017 {L1}
L14 N017 N016 {L2}
R16 4 N003 {R2}
R17 3 N024 {R2}
L15 N015 N014 {L4}
R18 N008 N002 {Rs4}
L16 N008 N002 {L4}
R21 3 N017 {Rs1}
R22 N017 N016 {Rs2}
R23 N016 N015 {Rs3}
R24 N015 N014 {Rs4}
R25 N002 N001 {Rs5}
R26 N014 N013 {Rs5}
C9 N002 N001 {C2}
C10 N014 N013 {C2}
L17 N002 N001 {L5}
L18 N014 N013 {L5}
K7 L1 L3 L2 L4 0.9999
K6 L5 L7 L6 L8 0.9999
K3 L9 L12 1
K2 L11 L14 1
K1 L10 L13 1
K4 L16 L15 1
K5 L17  L18 1
.param Rdc=0.0055
.param L1=879.38e-006
.param L2=80.35e-006
.param L3=95.47e-006
.param L4=85.22e-006
.param L5=2.0e-009
.param C1=2.050e-011
.param C2=3e-016
.param Rs1=11928
.param Rs2=837
.param Rs3=1193
.param Rs4=1278
.param Rs5=6490
.param R2=12
.param dL3=62e-08
.param dC3=18.5e-012
.param dL4=9.51e-009
.param dC4=10e-09
.param dR3=0.19
.param dR4=4050
.param dR5=1
.param dR6=10
.param ck=0.5pF
.backanno
.ends XXL_744831010205_1m
*--------------------------------------------------------------
.subckt XXL_744831016164_1.6m 1 2 3 4
R1 N004 1 {Rdc}
R2 N006 N004 {dR4}
C1 N005 N004 {dC3}
L1 N011 N004 {dL3}
L2 N018 N019 {dL3}
C2 N011 N019 {ck}
R3 N006 N005 {dR3}
R4 N020 N022 {dR3}
C3 N022 N018 {dC3}
R5 N020 N018 {dR4}
L3 N006 N011 {dL3}
L4 N019 N020 {dL3}
R6 N018 2 {Rdc}
R8 N001 N006 {dR6}
C4 N007 N006 {dC4}
L5 N012 N006 {dL4}
L6 N020 N021 {dL4}
C5 N012 N021 {ck}
R9 N001 N007 {dR5}
R10 N013 N023 {dR5}
C6 N023 N020 {dC4}
R11 N013 N020 {dR6}
L7 N001 N012 {dL4}
L8 N021 N013 {dL4}
L9 N009 N008 {L3}
C7 N003 N002 {C1}
R13 N009 N008 {Rs3}
L10 4 N010 {L1}
R14 4 N010 {Rs1}
L11 N010 N009 {L2}
R15 N010 N009 {Rs2}
L12 N016 N015 {L3}
C8 N024 N014 {C1}
L13 3 N017 {L1}
L14 N017 N016 {L2}
R16 4 N003 {R2}
R17 3 N024 {R2}
L15 N015 N014 {L4}
R18 N008 N002 {Rs4}
L16 N008 N002 {L4}
R21 3 N017 {Rs1}
R22 N017 N016 {Rs2}
R23 N016 N015 {Rs3}
R24 N015 N014 {Rs4}
R25 N002 N001 {Rs5}
R26 N014 N013 {Rs5}
C9 N002 N001 {C2}
C10 N014 N013 {C2}
L17 N002 N001 {L5}
L18 N014 N013 {L5}
K7 L1 L3 L2 L4 0.9999
K6 L5 L7 L6 L8 0.9999
K3 L9 L12 1
K2 L11 L14 1
K1 L10 L13 1
K4 L16 L15 1
K5 L17  L18 1
.param Rdc=0.0055
.param L1=1550.38e-006
.param L2=80.35e-006
.param L3=95.47e-006
.param L4=85.22e-006
.param L5=2.0e-009
.param C1=2.250e-011
.param C2=3e-016
.param Rs1=19928
.param Rs2=837
.param Rs3=1193
.param Rs4=1278
.param Rs5=6490
.param R2=12
.param dL3=91e-08
.param dC3=24.6e-012
.param dL4=9.51e-09
.param dC4=45e-09
.param dR3=3
.param dR4=5950
.param dR5=1
.param dR6=10
.param ck=1pF
.backanno
.ends XXL_744831016164_1.6m
*--------------------------------------------------------------
.subckt XXL_744831020133_2m 1 2 3 4
R1 N004 1 {Rdc}
R2 N006 N004 {dR4}
C1 N005 N004 {dC3}
L1 N011 N004 {dL3}
L2 N018 N019 {dL3}
C2 N011 N019 {ck}
R3 N006 N005 {dR3}
R4 N020 N022 {dR3}
C3 N022 N018 {dC3}
R5 N020 N018 {dR4}
L3 N006 N011 {dL3}
L4 N019 N020 {dL3}
R6 N018 2 {Rdc}
R8 N001 N006 {dR6}
C4 N007 N006 {dC4}
L5 N012 N006 {dL4}
L6 N020 N021 {dL4}
C5 N012 N021 {ck}
R9 N001 N007 {dR5}
R10 N013 N023 {dR5}
C6 N023 N020 {dC4}
R11 N013 N020 {dR6}
L7 N001 N012 {dL4}
L8 N021 N013 {dL4}
L9 N009 N008 {L3}
C7 N003 N002 {C1}
R13 N009 N008 {Rs3}
L10 4 N010 {L1}
R14 4 N010 {Rs1}
L11 N010 N009 {L2}
R15 N010 N009 {Rs2}
L12 N016 N015 {L3}
C8 N024 N014 {C1}
L13 3 N017 {L1}
L14 N017 N016 {L2}
R16 4 N003 {R2}
R17 3 N024 {R2}
L15 N015 N014 {L4}
R18 N008 N002 {Rs4}
L16 N008 N002 {L4}
R21 3 N017 {Rs1}
R22 N017 N016 {Rs2}
R23 N016 N015 {Rs3}
R24 N015 N014 {Rs4}
R25 N002 N001 {Rs5}
R26 N014 N013 {Rs5}
C9 N002 N001 {C2}
C10 N014 N013 {C2}
L17 N002 N001 {L5}
L18 N014 N013 {L5}
K7 L1 L3 L2 L4 0.9999
K6 L5 L7 L6 L8 0.9999
K3 L9 L12 1
K2 L11 L14 1
K1 L10 L13 1
K4 L16 L15 1
K5 L17  L18 1
.param Rdc=0.013
.param L1=1863.38e-006
.param L2=80.35e-006
.param L3=95.47e-006
.param L4=85.22e-006
.param L5=2.0e-009
.param C1=2.060e-011
.param C2=3e-016
.param Rs1=24928
.param Rs2=837
.param Rs3=1193
.param Rs4=1278
.param Rs5=6490
.param R2=10
.param dL3=130e-08
.param dC3=21.5e-012
.param dL4=9.51e-09
.param dC4=45e-09
.param dR3=3
.param dR4=6100
.param dR5=1
.param dR6=10
.param ck=0.01pF
.backanno
.ends XXL_744831020133_2m
*--------------------------------------------------------------
.subckt XXL_744831034090_3.4m 1 2 3 4
R1 N004 1 {Rdc}
R2 N006 N004 {dR4}
C1 N005 N004 {dC3}
L1 N011 N004 {dL3}
L2 N018 N019 {dL3}
C2 N011 N019 {ck}
R3 N006 N005 {dR3}
R4 N020 N022 {dR3}
C3 N022 N018 {dC3}
R5 N020 N018 {dR4}
L3 N006 N011 {dL3}
L4 N019 N020 {dL3}
R6 N018 2 {Rdc}
R8 N001 N006 {dR6}
C4 N007 N006 {dC4}
L5 N012 N006 {dL4}
L6 N020 N021 {dL4}
C5 N012 N021 {ck}
R9 N001 N007 {dR5}
R10 N013 N023 {dR5}
C6 N023 N020 {dC4}
R11 N013 N020 {dR6}
L7 N001 N012 {dL4}
L8 N021 N013 {dL4}
L9 N009 N008 {L3}
C7 N003 N002 {C1}
R13 N009 N008 {Rs3}
L10 4 N010 {L1}
R14 4 N010 {Rs1}
L11 N010 N009 {L2}
R15 N010 N009 {Rs2}
L12 N016 N015 {L3}
C8 N024 N014 {C1}
L13 3 N017 {L1}
L14 N017 N016 {L2}
R16 4 N003 {R2}
R17 3 N024 {R2}
L15 N015 N014 {L4}
R18 N008 N002 {Rs4}
L16 N008 N002 {L4}
R21 3 N017 {Rs1}
R22 N017 N016 {Rs2}
R23 N016 N015 {Rs3}
R24 N015 N014 {Rs4}
R25 N002 N001 {Rs5}
R26 N014 N013 {Rs5}
C9 N002 N001 {C2}
C10 N014 N013 {C2}
L17 N002 N001 {L5}
L18 N014 N013 {L5}
K7 L1 L3 L2 L4 0.9999
K6 L5 L7 L6 L8 0.9999
K3 L9 L12 1
K2 L11 L14 1
K1 L10 L13 1
K4 L16 L15 1
K5 L17  L18 1
.param Rdc=0.013
.param L1=1.80e-003
.param L2=5.80e-004
.param L3=4.95e-004
.param L4=4.85e-004
.param L5=2.50e-009
.param C1=2.650e-011
.param C2=2.5e-016
.param Rs1=48928
.param Rs2=5837
.param Rs3=5893
.param Rs4=5878
.param Rs5=6490
.param R2=10
.param dL3=205e-08
.param dC3=23.6e-012
.param dL4=9.51e-09
.param dC4=45e-09
.param dR3=3
.param dR4=10580
.param dR5=1
.param dR6=10
.param ck=0.01pF
.backanno
.ends XXL_744831034090_3.4m
*--------------------------------------------------------------
.subckt XXL_744831047068_4.7m 1 2 3 4
R1 N004 1 {Rdc}
R2 N006 N004 {dR4}
C1 N005 N004 {dC3}
L1 N011 N004 {dL3}
L2 N018 N019 {dL3}
C2 N011 N019 {ck}
R3 N006 N005 {dR3}
R4 N020 N022 {dR3}
C3 N022 N018 {dC3}
R5 N020 N018 {dR4}
L3 N006 N011 {dL3}
L4 N019 N020 {dL3}
R6 N018 2 {Rdc}
R8 N001 N006 {dR6}
C4 N007 N006 {dC4}
L5 N012 N006 {dL4}
L6 N020 N021 {dL4}
C5 N012 N021 {ck}
R9 N001 N007 {dR5}
R10 N013 N023 {dR5}
C6 N023 N020 {dC4}
R11 N013 N020 {dR6}
L7 N001 N012 {dL4}
L8 N021 N013 {dL4}
L9 N009 N008 {L3}
C7 N003 N002 {C1}
R13 N009 N008 {Rs3}
L10 4 N010 {L1}
R14 4 N010 {Rs1}
L11 N010 N009 {L2}
R15 N010 N009 {Rs2}
L12 N016 N015 {L3}
C8 N024 N014 {C1}
L13 3 N017 {L1}
L14 N017 N016 {L2}
R16 4 N003 {R2}
R17 3 N024 {R2}
L15 N015 N014 {L4}
R18 N008 N002 {Rs4}
L16 N008 N002 {L4}
R21 3 N017 {Rs1}
R22 N017 N016 {Rs2}
R23 N016 N015 {Rs3}
R24 N015 N014 {Rs4}
R25 N002 N001 {Rs5}
R26 N014 N013 {Rs5}
C9 N002 N001 {C2}
C10 N014 N013 {C2}
L17 N002 N001 {L5}
L18 N014 N013 {L5}
K7 L1 L3 L2 L4 0.9999
K6 L5 L7 L6 L8 0.9999
K3 L9 L12 1
K2 L11 L14 1
K1 L10 L13 1
K4 L16 L15 1
K5 L17  L18 1
.param Rdc=0.044
.param L1=5050.380e-006
.param L2=80.35e-006
.param L3=95.47e-006
.param L4=85.22e-006
.param L5=2.0e-009
.param C1=2.750e-011
.param C2=3e-016
.param Rs1=92028
.param Rs2=8380050
.param Rs3=1193
.param Rs4=1278
.param Rs5=10490
.param R2=15
.param dL3=305e-08
.param dC3=28.8e-012
.param dL4=9.51e-09
.param dC4=45e-09
.param dR3=3
.param dR4=12100
.param dR5=1
.param dR6=10
.param ck=0.01pF
.backanno
.ends XXL_744831047068_4.7m
